US07005432B2
3,4-Dihydro-naphthalene-2-boronic acid
A solution of 3-bromo-1,2-dihydro-naphthalene (7.7 g, 37 mmol) (Adamczyk, M.; Watt, D. S.; Netzel, D. A. J. Org. Chem. 1984, 49, 4226-4237) in diethylether (370 ml) was cooled in a dry ice bath and tert.-butyllithium solution (50 ml of a 1.5 M solution in pentane) was added maintaining T<−65° C. At this temperature stirring was continued for 30 min, then triisopropylborate (17.3 ml, 75 mmol) was added. The reaction mixture was brought to rt and treated with 3N HCl (100 ml). After 15 min the organic phase was dried (Na2SO4), evaporated and precipitated with pentane to provide the title compound (3.83 g, 60%) as a white solid material. MS: m/e=173 (M−H−).

reactant | 3-bromo-1,2-dihydro-naphthalene | 37 mmol, 7.7 g | BrC=1CCC2=CC=CC=C2C1 | C10H9Br
reactant | tert.-butyllithium | C(C)(C)(C)[Li]
reactant | triisopropylborate | 75 mmol, 17.3 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 3N, 100 ml | Cl | ClH
solvent | diethylether | 370 ml | C(C)OCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 3,4-Dihydro-naphthalene-2-boronic acid | 3.83 g, 60% | C1=C(CCC2=CC=CC=C12)B(O)O | C10H11BO2
